US04567199
A solution of bromine (7.10 ml) in carbon tetrachloride (70 ml) was added slowly over a period of 3 hours to a solution of 2-chloro-4-fluorotoluene (20.0 g) in carbon tetrachloride (80 ml) maintained at the reflux temperature and irradiated by light from a tungsten lamp (200 watt). After the addition was completed the mixture was heated at the reflux temperature with irradiation until the colour had been discharged (ca.1 hour). The solvent was then removed by evaporation under reduced pressure and the residual oil distilled to yield 2-chloro-4-fluorobenzyl bromide (80% pure, 18.0 g) b.p. 110°-120° C./15 mm Hg.

reactant | bromine | 7.10 ml | BrBr | Br2
reactant | 2-chloro-4-fluorotoluene | 20.0 g | ClC1=C(C=CC(=C1)F)C | C7H6ClF
solvent | carbon tetrachloride | 70 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 80 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-chloro-4-fluorobenzyl bromide | 18.0 g, 80% | ClC1=C(CBr)C=CC(=C1)F | C7H5BrClF
